US09193720B2
A mixture of (S)-ethyl 2-(5-(4-(benzyloxy)phenyl)-4-(4,4-dimethylpiperidin-1-yl)-2,6-dimethylpyridin-3-yl)-2-(tert-butoxy)acetate (0.434 g, 0.777 mmol) and 10% Pd/C (0.083 g, 0.078 mmol) in EtOAc (25 mL) was evacuated and released to H2 three times and left under balloon H2 atmosphere for h. Then, filtered through a plug of celite and concentrated to afford (S)-ethyl 2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-5-(4-hydroxyphenyl)-2,6-dimethylpyridin-3-yl)acetate (0.36 g, 0.768 mmol, 99% yield) as white solid which was used in subsequent reactions without purification. 1H NMR (500 MHz, CDCl3) δ 7.11 (dd, J=2.0, 8.6 Hz, 1H), 6.99-7.03 (m, 1H), 6.94 (tdd, J=2.2, 4.4, 6.4 Hz, 2H), 6.09 (s, 1H), 4.23-4.30 (m, 1H), 4.19 (qd, J=7.1, 10.8 Hz, 1H), 3.18 (d, J=11.4 Hz, 1H), 2.88 (t, J=12.1 Hz, 1H), 2.62 (s, 3H), 2.28 (d, J=10.9 Hz, 1H), 2.22 (s, 3H), 2.10 (t, J=11.7 Hz, 1H), 1.51-1.60 (m, 1H), 1.33-1.42 (m, 1H), 1.27 (t, J=7.1 Hz, 3H), 1.21 (s, 9H), 1.18-1.20 (m, 1H), 1.09 (d, J=9.9 Hz, 1H), 0.91 (br. s., 3H), 0.66 (br. s., 3H). LCMS (M+H)=469.3.

reactant | (S)-ethyl 2-(5-(4-(benzyloxy)phenyl)-4-(4,4-dimethylpiperidin-1-yl)-2,6-dimethylpyridin-3-yl)-2-(tert-butoxy)acetate | 0.777 mmol, 0.434 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=1C(=C(C(=NC1C)C)[C@@H](C(=O)OCC)OC(C)(C)C)N1CCC(CC1)(C)C | C35H46N2O4
solvent | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 0.078 mmol, 0.083 g | [Pd] | Pd
product | (S)-ethyl 2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-5-(4-hydroxyphenyl)-2,6-dimethylpyridin-3-yl)acetate | 0.768 mmol, 0.36 g, 99% yield | C(C)(C)(C)O[C@H](C(=O)OCC)C=1C(=NC(=C(C1N1CCC(CC1)(C)C)C1=CC=C(C=C1)O)C)C | C28H40N2O4
